US04207320
3-Fluoro-10-(1-methylethyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide
A solution of 88.3 g. of 6-fluoroquinoline, 27.8 g. of 6-(1-methylethyl)quinaldine and 76.2 g. of iodine in 100 ml. of toluene is heated at 95°-100° C. for 5 days, cooled and diluted with 350 ml. of ethyl acetate. The precipitate is collected, pulverized, suspended in 500 ml. of aqueous methanol and recovered by filtration. The solid is suspended in 400 ml. of cold methanol, stirred with 6 ml. of hydrazine and the solid 3-fluoro-10-(1-methylethyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration; m.p. 305°-307° C., after crystallization from methanol.

reactant | 6-fluoroquinoline | FC=1C=C2C=CC=NC2=CC1 | C9H6FN
reactant | 6-(1-methylethyl)quinaldine | CC(C)C=1C=C2C=CC(=NC2=CC1)C | C13H15N
reactant | iodine | II | I2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Fluoro-10-(1-methylethyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].FC1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)C(C)C | InChI=1S/C22H18FN2.HI/c1-14(2)15-4-8-21-16(11-15)3-7-19-13-24-20-9-6-18(23)12-17(20)5-10-22(24)25(19)21;/h3-14H,1-2H3;1H/q+1;/p-1
